US04211783
A solution of 3.0 g. of tert-butyl ethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoylmalonate 10 ml. of trifluoroacetic acid is warmed with stirring for 3 hours. The solution is poured onto ice and neutralized with potassium hydroxide. The resulting precipitate is collected by filtration, washed with water and dried. Recrystallization from chloroform affords ethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoylacetate.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | tert-butyl ethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoylmalonate | 10 ml | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)OCC)C=C1 | C35H46ClNO5
product | ethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoylacetate | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C30H38ClNO3
